US09359375B2
To a suspension of ethyl 5-cyano-2,6-dichloronicotinate Q4 (1.10 g, 4.4 mmol) in ACN (20 ml) was added 3-(2H-1,2,3-triazol-2-yl)aniline Q5 (774 mg, 4.84 mmol) and DIPEA (1.18 mL, 6.6 mmol). The mixture was stirred at ambient temperature for 15 h, and diluted with water; the resulting precipitate was collected by filtration to give intermediate, which was added THF (12 mL) and a solution of LiOH (106 mg, 8.8 mmol) in water (6 mL). After stirring at ambient temperature for 2 h, THF was removed by concentration and the residue was acidified to pH 2, the resulting precipitate was collected by filtration to give 2-(3-(2H-1,2,3-triazol-2-yl)phenylamino-6-chloro-5-cyanonicotinic acid Q6 (870 mg).

reactant | ethyl 5-cyano-2,6-dichloronicotinate | C(#N)C=1C(=NC(=C(C(=O)OCC)C1)Cl)Cl | C9H6Cl2N2O2
reactant | 3-(2H-1,2,3-triazol-2-yl)aniline | N=1N(N=CC1)C=1C=C(N)C=CC1 | C8H8N4
reactant | DIPEA | 6.6 mmol, 1.18 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | LiOH | 8.8 mmol, 106 mg | [Li+].[OH-]
reactant | THF | 12 mL | C1CCOC1 | C4H8O
solvent | ACN | 20 ml | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | water | 6 mL | O | H2O
product | 3-(2H-1,2,3-triazol-2-yl)phenylamino-6-chloro-5-cyanonicotinic acid | N=1N(N=CC1)C1(C(=O)O)C(N=C(C(=C1)C#N)Cl)NC1=CC=CC=C1 | C15H11ClN6O2
